US09382238B2
A mixture of N-(4-(2,2-difluoro-3-hydroxypropyl)-3-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide (50 mg, 0.077 mmol) in DCM (5 mL) was added TFA (0.012 mL, 0.154 mmol). The mixture was stirred at 20° C. for 1 h. LCMS showed the reaction was finished. The mixture was concentrated to give crude product, which was purified by preparative HPLC (Column: ASB C18 150*25 mm; Mobile phase A: Water+0.1% HCl; Mobile phaseB: MeCN; Flowrate: 25 mLl/min; Gradient Profile Description: 26-56 (B %)) to give N-(4-(2,2-difluoro-3-hydroxypropyl)-3-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetamide (16.72 mg, 0.032 mmol, 41.0% yield): 1H NMR (400 MHz, CD3OD-d4) δ 8.01 (s, 1H), 7.76 (d, J=8.4 Hz, 1H), 7.52 (d, J=8.4 Hz, 1H), 7.40 (d, J=7.5 Hz, 1H), 7.36-7.26 (m, 3H), 7.23 (s, 1H), 4.12 (d, J=7.1 Hz, 2H), 3.80 (s, 2H), 3.68 (t, J=12.8 Hz, 2H), 3.41 (t, J=17.1 Hz, 2H), 1.45 (t, J=6.9 Hz, 3H). ES-LCMS m/z 529 (M+H).

reactant | N-(4-(2,2-difluoro-3-hydroxypropyl)-3-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide | 0.077 mmol, 50 mg | FC(CC1=C(C=C(C=C1)NC(CC1=C(C=C(C=C1)C=1C=NC(=C(C1)OCC)OCC1=CC=C(C=C1)OC)F)=O)C(F)(F)F)(CO)F | C33H30F6N2O5
reactant | TFA | 0.154 mmol, 0.012 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(4-(2,2-difluoro-3-hydroxypropyl)-3-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetamide | 0.032 mmol, 16.72 mg, 41.0% yield | FC(CC1=C(C=C(C=C1)NC(CC1=C(C=C(C=C1)C1=CNC(C(=C1)OCC)=O)F)=O)C(F)(F)F)(CO)F | C25H22F6N2O4
